US04076938
26,6 g (0,15 mole) of 2-isopropyl-2-cyanohydrazinecarboxylic acid ethyl ester is added dropwise to 100 ml of pyrrolidine. The temperature raises to 30° C during the dropwise addition. The whole mixture is then stirred for 12 hours at room temperature and subsequently for 1 hour at 70° C. Then excess pyrrolidine is distilled off in vacuo. To the crystalline residue ethyl acetate is added and the crystals are filtered with suction. There is obtained 21,6 g (70% of theory) of 1-isopropyl-3-hydroxy-5-pyrrolidino-1,2,4-triazole, mp. 123°-125° C.

reactant | 2-isopropyl-2-cyanohydrazinecarboxylic acid ethyl ester | 0,15 mole, 26,6 g | C(C)OC(=O)NN(C#N)C(C)C | C7H13N3O2
reactant | pyrrolidine | 100 ml | N1CCCC1 | C4H9N
product | 1-isopropyl-3-hydroxy-5-pyrrolidino-1,2,4-triazole | 21,6 g, 70% | C(C)(C)N1N=C(N=C1N1CCCC1)O | C9H16N4O
